US03974181
250 g. of crude 2,6,6-trimethyl-4-ethoxy-1,3-cyclohexadien-1-carboxylic acid methyl ester, prepared in Example 3, was added over a 1-hour period to a suspension of 50 g. of lithium aluminum hydride in 1 l. of diethyl ether at a temperature of 10°-15°. Stirring of the reaction mixture at this temperature was continued for an additional 4 hours. The reaction mixture after this period was quenched by slow addition of 250 ml. of water while the temperature was kept below 15°. The inorganic material was filtered by suction and the filtrate was washed well with diethyl ether. The filtrate was dried over sodium sulfate and concentrated under vacuum at 20°-30° to yield crude 2,6,6-trimethyl-4-ethoxy-1,3-cyclohexadien-1-methanol as a viscous oil.

reactant | 2,6,6-trimethyl-4-ethoxy-1,3-cyclohexadien-1-carboxylic acid methyl ester | COC(=O)C1=C(C=C(CC1(C)C)OCC)C | C13H20O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,6,6-trimethyl-4-ethoxy-1,3-cyclohexadien-1-methanol | CC1=C(C(CC(=C1)OCC)(C)C)CO | C12H20O2
